US08445687B2
Synthesis of 1-(4-hydroxyphenyl)urea (Compound 5)
4-aminophenol (45 g, 0.4123 mol) was charged in water and acetic acid mixture (9:1) (450 vol) to obtain a clear solution. To this clear solution was added drop wise previously prepared solution of sodium cyanate (29.48 g, 0.45358 mol) in water over a period of 1 hour. The reaction mass obtained was stirred for 6 hours at ambient temperature and filtered to obtain solid. The solid was washed with water and vacuum dried to obtain the desired product, i.e., 1-(4-hydroxyphenyl)urea (48 g).

reactant | 4-aminophenol | 0.4123 mol, 45 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium cyanate | 0.45358 mol, 29.48 g | [O-]C#N.[Na+]
solvent | water | O | H2O
product | 1-(4-hydroxyphenyl)urea | 48 g | OC1=CC=C(C=C1)NC(=O)N | C7H8N2O2
